US09382234B2
A solution of methyl 5-chloro-2-methyl-3-((1-methylpiperidin-4-yl)oxy)benzoate (120 mg, 0.403 mmol) in MeOH (2 mL) was treated with 6 N NaOH (2 mL). The reaction was stirred for 2 h at RT, at which time it was concentrated in vacuo. The residue was suspended in water, acidified with 6 N HCl, filtered and dried. The resultant product was dissolved in DMF (4.0 mL) and treated with 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one, hydrochloride (76 mg, 0.403 mmol), 1-hydroxy-7-azabenzotriazole (HOAT) (82 mg, 0.604 mmol), EDC (116 mg, 0.604 mmol) and N-methylmorpholine (177 μl, 1.612 mmol). The reaction was stirred for 3 h at RT, at which time it was poured into saturated sodium bicarbonate solution and extracted with DCM (3×25 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to give 5-chloro -N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)-2-methyl-3-((1-methylpiperidin -4-yl)oxy)benzamide (0.050 g, 0.120 mmol, 30% yield). 1H NMR (400 MHz, DMSO-d6) δ 1.54-1.74 (m, 2 H) 1.80-1.94 (m, 2 H) 2.06 (s, 3 H) 2.12-2.22 (m, 6 H) 2.25 (d, J=9.60 Hz, 2 H) 2.31 (s, 3 H) 4.19 (d, J=5.05 Hz, 2 H) 4.48 (br. s., 1 H) 5.87 (s, 1 H) 6.79 (d, J=2.02 Hz, 1 H) 7.10 (d, J=2.02 Hz, 1 H) 8.21 (t, J=4.93 Hz, 1 H) 11.00 (s, 1 H). MS(ES) [M+H]+ 418.3.

reactant | methyl 5-chloro-2-methyl-3-((1-methylpiperidin-4-yl)oxy)benzoate | 0.403 mmol, 120 mg | ClC=1C=C(C(=C(C(=O)OC)C1)C)OC1CCN(CC1)C | C15H20ClNO3
reactant | NaOH | 6 N, 2 mL | [OH-].[Na+]
reactant | 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one, hydrochloride | 0.403 mmol, 76 mg | Cl.NCC1=C(NC(=CC1=O)C)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.604 mmol, 82 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 0.604 mmol, 116 mg
reactant | N-methylmorpholine | 1.612 mmol, 177 μl | CN1CCOCC1 | C5H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 5-chloro -N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)-2-methyl-3-((1-methylpiperidin -4-yl)oxy)benzamide | 0.120 mmol, 0.050 g, 30% yield | ClC=1C=C(C(=C(C(=O)NCC2=C(NC(=CC2=O)C)C)C1)C)OC1CCN(CC1)C | C22H28ClN3O3
